US07893056B2
1-(Diphenylmethyl)-3-ethyl-N,N-dimethyl-3-azetidinamine (0.215 g, 0.73 mmol) in 1 N HCl (5 ml) and ethanol (30 ml) was treated with H2 at 60 psi in the presence of Pd(OH)2 on carbon (100 mg). Standard work-up afforded 3-ethyl-N,N-dimethyl-3-azetidinamine dihydrochloride (0.165 g, 112.2%). LCMS: (M+H)+ 129.1.

reactant | 1-(Diphenylmethyl)-3-ethyl-N,N-dimethyl-3-azetidinamine | 0.73 mmol, 0.215 g | C1(=CC=CC=C1)C(N1CC(C1)(N(C)C)CC)C1=CC=CC=C1 | C20H26N2
reactant | HCl | 1 N, 5 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd(OH)2 on carbon | 100 mg | [OH-].[OH-].[Pd+2]
product | 3-ethyl-N,N-dimethyl-3-azetidinamine dihydrochloride | 0.165 g, 112.2% | Cl.Cl.C(C)C1(CNC1)N(C)C | InChI=1S/C7H16N2.2ClH/c1-4-7(9(2)3)5-8-6-7;;/h8H,4-6H2,1-3H3;2*1H
